US06399656B1
Preparation of 5-phenyl-2-thiophenecarboxylic Acid
Following the procedure of Preparation 1(a), except substituting phenylboronic acid for 4-carboxybenzeneboronic acid and 5-bromo-2-thiophenecarboxylic acid for 3-bromopyridine, afforded the title compound.

reactant | 4-carboxybenzeneboronic acid | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | 5-bromo-2-thiophenecarboxylic acid | BrC1=CC=C(S1)C(=O)O | C5H3BrO2S
reactant | 3-bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
product | 5-phenyl-2-thiophenecarboxylic Acid | C1(=CC=CC=C1)C1=CC=C(S1)C(=O)O | C11H8O2S
